US20010018423A1
B) Preparation of EtSO2-D-Phe-Pro-OBn
To a stirring suspension of EtSO2-D-Phe-OH (25.7 g, 100 mmol), Pro-OBn•HCl (26.6 g, 110 mmol), HOBT (13.5 g, 100 mmol) and N,N-diisopropylethylamine (43.5 mL, 250 mL) in THF (1 L) at 0° C. was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (23 g, 120 mL). After stirring for 20 h, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate and 1N citric acid. The organic phase was washed twice with 1N KHCO3, twice with brine, dried with MgSO4, filtered and concentrated in vacuo. The residue was chromatographed over silica gel, eluting with a step gradient of hexanes through 50% ethyl acetate/hexanes. The product containing fractions were combined and concentrated in vacuo to give 29 g (65%) of a clear, thick oil.

reactant | EtSO2-D-Phe-OH | 100 mmol, 25.7 g | C(C)S(=O)(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C11H15NO4S
reactant | Pro-OBn•HCl | 110 mmol, 26.6 g | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1.Cl
reactant | HOBT | 100 mmol, 13.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 43.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 120 mL, 23 g | Cl.CN(CCCN=C=NCC)C
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | EtSO2-D-Phe-Pro-OBn | C(C)S(=O)(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C23H28N2O5S
